US07432288B2
1-(2-Methoxyethyl)-3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione
3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione (0.20 mmol, 53 mg) and 4-methoxyaniline (0.48 mmol, 59 mg) were dissolved in DMF (1 mL). The mixture was heated in a microwave reactor at 150° C. for five min.min. After cooling, the reaction mixture was purified by HPLC (95% 0.1M ammonium acetate buffer: 5% CH3CN→100% CH3CN) to give 15 mg (21%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 7.27 (bs, 1H), 7.13-7.04 (m, 3H), 7.00-6.96 (m, 2H), 6.61-6.50 (m, 4H), 3.80 (t, J=5.6 Hz, 2H), 3.67 (s, 3H), 3.62 (t, J=5.6 Hz, 2H), 3.36 (s, 3H).

reactant | 3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione | 0.20 mmol, 53 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CCOC)=O | C13H12ClNO3
reactant | 4-methoxyaniline | 0.48 mmol, 59 mg | COC1=CC=C(N)C=C1 | C7H9NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2-Methoxyethyl)-3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione | 15 mg, 21% | COCCN1C(C(=C(C1=O)C1=CC=CC=C1)NC1=CC=C(C=C1)OC)=O | C20H20N2O4
